US07435735B2
Step 3: tert-Butyl 1-formylcyclopentylcarbamate
To a solution of tert-butyl 1-{[methoxy(methyl)amino]carbonyl}-cyclopentylcarbamate (3.34 g, 12.27 mmol) in anhydrous THF (112 mL) at 0° C. under an atmosphere of nitrogen was added LAH (698 mg, 18.40 mmol), portionwise. The reaction was stirred at 0° C. for 30 min, treated with KHSO4 (3.4 g) in water (72 mL), diluted with Et2O, and stirred for 5 min. The layers were separated, and the aqueous was extracted with Et2O three times more. The combined organic extracts were washed twice each with aqueous 1N HCl solution, saturated aqueous NaHCO3 solution, and brine, dried over MgSO4, and concentrated in vacuo to afford the product as a sticky solid.

reactant | tert-butyl 1-{[methoxy(methyl)amino]carbonyl}-cyclopentylcarbamate | 12.27 mmol, 3.34 g | CON(C(=O)C1(CCCC1)NC(OC(C)(C)C)=O)C | C13H24N2O4
reactant | LAH | 18.40 mmol, 698 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | KHSO4 | 3.4 g | OS(=O)(=O)[O-].[K+]
solvent | THF | 112 mL | C1CCOC1 | C4H8O
solvent | water | 72 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | tert-Butyl 1-formylcyclopentylcarbamate | C(=O)C1(CCCC1)NC(OC(C)(C)C)=O | C11H19NO3
